US04310682
135 g. of 2'-methyl-4'-chlorosalicylanilide is dissolved in 2,500 cc. of carbon disulfide with heating. Said solution is then rapidly cooled to form a finely dispersed suspension of 2'-methyl-4'-chlorosalicylanilide. A solution of 80 cc. of bromine in 250 cc. of carbon disulfide is added, drop by drop, at room temperature to said suspension with agitation. Said reaction mixture is allowed to stand over night. Thereby 210 g. of 5-bromo-2'-methyl-4'-chloro salicylanilide are obtained. Resulting compound (compound No. 1) forms colorless prism-shaped crystals having properties shown in Table 1 by recrystallizing from ethyl acetate.

reactant | 2'-methyl-4'-chlorosalicylanilide | CC1=C(NC(C=2C(O)=CC=CC2)=O)C=CC(=C1)Cl | C14H12ClNO2
reactant | bromine | BrBr | Br2
solvent | carbon disulfide | C(=S)=S | CS2
product | 5-bromo-2'-methyl-4'-chloro salicylanilide | BrC1=CC=C(C(C(=O)NC2=C(C=C(C=C2)Cl)C)=C1)O | C14H11BrClNO2
